US05948781
A. N-1-Adamantylaniline
Under a nitrogen (N2) atmosphere was combined 10.0 g (46.5 mmol) of 1-bromoadamantane and 20 ml of aniline. The reaction was stirred for 20 hours at 200° C., and then cooled and fractionated on silica gel using 6:1 hexane:ethyl acetate (EtOAc) to afford, after concentration in vacuo and refractionation using toluene, 5.65 g (54%) of N-1-adamantylaniline.

reactant | 1-bromoadamantane | 46.5 mmol, 10.0 g | BrC12CC3CC(CC(C1)C3)C2 | C10H15Br
reactant | aniline | 20 ml | NC1=CC=CC=C1 | C6H7N
reactant | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-1-Adamantylaniline | C12(CC3CC(CC(C1)C3)C2)NC2=CC=CC=C2 | C16H21N
